US07414060B2
Step 2: 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (5-methyl-thiazol-2-yl)-amide:
The title compound, was prepared from 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester and 2-Amino-5-methylthiazole in accordance with the general method of example 78, step 2 to yield the final compound as a yellow crystalline solid, MS (ISP): m/e=326.1 (M+H+).

reactant | 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C | C14H15N3O2
reactant | 2-Amino-5-methylthiazole | NC=1SC(=CN1)C | C4H6N2S
product | 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (5-methyl-thiazol-2-yl)-amide | CC1=CN=C(S1)NC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C | C16H15N5OS
